US04355034
To a suspension of 0.15 moles of lithium aluminum hydride in 250 ml. of ether is added dropwise with stirring a solution of 0.05 moles of dimethyl 2-methyl-3-hydroxy-6-vinylpyridine, 4,5-dicarboxylate in 150 ml. of ether. The mixture is refluxed for 6 hours and stirred overnight at room temperature. The reaction mixture is cooled and 100 ml. of water added dropwise with stirring. The resulting mixture is saturated with carbon dioxide for 30 minutes and then filtered. The precipitate is stirred with 250 ml. of ethanol-water (1:1) and saturated again with carbon dioxide and filtered. The solid is then extracted twice with 100 ml. of boiling ethanol. The combined filtrates are evaporated to dryness in vacuo. The residue is extracted 5 times with 100 ml. of boiling ethanol. The combined extracts are filtered and evaporated to dryness to give 2-methyl-3-hydroxy-4,5-di(hydroxymethyl)-6-vinylpyridine.

reactant | lithium aluminum hydride | 0.15 moles | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
reactant | dimethyl 2-methyl-3-hydroxy-6-vinylpyridine | 0.05 moles | CC=1C(=C(C(=NC1C=C)C)O)C | C10H13NO
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
product | 2-methyl-3-hydroxy-4,5-di(hydroxymethyl)-6-vinylpyridine | CC1=NC(=C(C(=C1O)CO)CO)C=C | C10H13NO3
